US04497821
2-Cyanoethyl 3-acetyl-2,6-dimethyl-4-(3-nitrophenyl)pyridine-5-carboxylate
A solution of 10 g (27 mmols) of 2-cyanoethyl 3-acetyl-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-5-carboxylate in an electrolyte of 5 g of lithium perchlorate in 250 ml of acetonitrile was electrolyzed on a platinum anode at an electrode potential of +1.2 V vs. SCE. After passing through 2 Faraday equivalents, the electrolysis was stopped, the anolyte was evaporated in vacuo, the residue was taken up in a sodium bicarbonate solution and extracted several times with methylene chloride. The organic extracts were washed with water, dried over sodium sulphate and then evaporated in vacuo. The resulting oil crystallized completely, and the solid product was thoroughly stirred in petroleum ether, filtered off with suction and dried, melting point 85° C., yield: 7.5 g (75%).

reactant | 2-cyanoethyl 3-acetyl-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-5-carboxylate | 27 mmols, 10 g | C(C)(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCC#N)C)C | C19H19N3O5
reactant | lithium perchlorate | 5 g | Cl(=O)(=O)(=O)[O-].[Li+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
catalyst | platinum | [Pt] | Pt
product | 2-Cyanoethyl 3-acetyl-2,6-dimethyl-4-(3-nitrophenyl)pyridine-5-carboxylate | C(C)(=O)C=1C(=NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCC#N)C)C | C19H17N3O5
